US07723347B2
3-Bromo-4-nitro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine
At 0° C., 18 μl (6.13 mmol) of bromine are added dropwise to a solution of 100 mg (340 μmol) of 4-nitro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine in 10 ml of dichloromethane. After 1 h of stirring at 0° C. and 1 h of stirring at RT, the reaction solution is filtered through an Extrelut silica gel cartridge, the cartridge is washed with a little dichloromethane/methanol and the filtrate is concentrated under reduced pressure. The residue is purified by preparative RP-HPLC.

reactant | bromine | 6.13 mmol, 18 μl | BrBr | Br2
reactant | 4-nitro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine | 340 μmol, 100 mg | [N+](=O)([O-])C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C13H19N3O3Si
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-Bromo-4-nitro-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridine | BrC1=CN(C2=NC=CC(=C21)[N+](=O)[O-])COCC[Si](C)(C)C | C13H18BrN3O3Si
